*
*|DSPF 1.5
*
*|DATE "Mon Jan 15 10:59:59 2024"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Quantus Extraction"
*|VERSION "22.1.0-p089 Linux 64 bit - (Thu Jan 19 11:47:08 PST 2023)"
*|DESIGN "SDFFX1"
*|DIVIDER /
*|DELIMITER #
*|DeviceFingerDelim "@"
*|BUSBIT []
*|GLOBAL_TEMPERATURE 25
*|OPERATING_TEMPERATURE 25
** QRC_TECH_DIR /vols/wfo_devel/projects/reference_SKY130/tech/sky130_release_0.0.1/quantus/extraction/typical 
** caps2d version: 10
*
.GLOBAL VDD VSS
*
.SUBCKT  SDFFX1 CK D Q QN SE SI
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET CK 5.10629e-16
*|P (CK X 0 2.3120 1.2640)
*|I (MX74/M0#g MX74/M0 g X 0 2.6250 0.8025)
*|I (MX91/M0#g MX91/M0 g X 0 2.6250 3.2375)
*|S (CK#7 2.6250 1.2900)
*|S (CK#9 2.3000 1.2900)
C1 MX91/M0#g VSS 4.69741e-17
C2 MX74/M0#g VSS 4.28797e-17
C3 CK#9 VSS 4.71266e-17
C4 CK#7 VSS 6.84121e-17
C5 CK VSS 3.05236e-16
Rg1 MX91/M0#g CK#7 606.955750 $W=0.15
Rg2 CK#7 MX74/M0#g 137.809082 $W=0.15
Rf3 CK#7 CK#9 39.470589 $W=0.17
Re4 CK CK#9 152.012497 $W=0.26
*
*|NET D 5.36995e-16
*|P (D X 0 0.9320 2.7440)
*|I (MX89/M0#g MX89/M0 g X 0 0.9050 0.8025)
*|I (MM0#g MM0 g X 0 0.9050 3.2375)
*|S (D#7 0.9050 2.3100)
*|S (D#8 0.9200 2.3100)
C6 MM0#g VSS 4.73424e-17
C7 MX89/M0#g VSS 4.79038e-17
C8 D#8 VSS 1.10535e-16
C9 D#7 VSS 1.37762e-16
C10 D VSS 1.93452e-16
Rg5 MM0#g D#7 279.195740 $W=0.15
Rg6 D#7 MX89/M0#g 465.569092 $W=0.15
Rf7 D#8 D#7 16.129412 $W=0.17
Re8 D D#8 152.208649 $W=0.26
*
*|NET Q 8.72867e-16
*|P (Q X 0 9.2120 2.0640)
*|I (MX94/M0#d MX94/M0 d X 0 9.3595 0.9700)
*|I (MX77/M0#d MX77/M0 d X 0 9.3595 2.9850)
*|S (Q#2 9.2200 2.9450)
*|S (Q#3 9.2200 1.0050)
C11 MX94/M0#d VSS 1.12938e-16
C12 Q#3 VSS 2.30422e-16
C13 Q#2 VSS 4.04171e-16
C14 Q VSS 1.25336e-16
Rf9 MX77/M0#d Q#2 5.616868 $W=0.83
Rf10 Q#3 MX94/M0#d 8.423712 $W=0.485
Re11 Q Q#3 76.383698 $W=0.345
Re12 Q Q#2 50.985870 $W=0.345
*
*|NET QN 6.1015e-16
*|P (QN X 0 10.1320 2.1090)
*|I (MX98/M0#d MX98/M0 d X 0 9.9405 0.9700)
*|I (MX71/M0#d MX71/M0 d X 0 9.9405 2.9850)
*|S (QN#2 10.0800 2.9450)
*|S (QN#3 10.0800 1.0000)
C15 MX98/M0#d VSS 7.94037e-17
C16 QN#3 VSS 1.74998e-16
C17 QN#2 VSS 2.71455e-16
C18 QN VSS 8.42934e-17
Rf13 MX71/M0#d QN#2 5.616868 $W=0.83
Rf14 QN#3 MX98/M0#d 8.283673 $W=0.49
Re15 QN QN#3 76.401810 $W=0.345
Re16 QN QN#2 50.969566 $W=0.345
*
*|NET SE 7.52924e-16
*|P (SE X 0 0.9320 1.6490)
*|I (MX83/M0#g MX83/M0 g X 0 1.7650 0.8025)
*|I (MX68/M0#g MX68/M0 g X 0 0.4750 0.8025)
*|I (MX84/M0#g MX84/M0 g X 0 0.4750 3.2375)
*|I (MX80/M0#g MX80/M0 g X 0 1.3350 3.2375)
*|S (SE#13 0.4150 1.7500)
*|S (SE#14 1.4700 1.9700)
*|S (SE#16 0.9200 1.8400)
C19 MX80/M0#g VSS 6.04792e-17
C20 MX84/M0#g VSS 5.76779e-17
C21 MX68/M0#g VSS 4.88579e-17
C22 MX83/M0#g VSS 4.5587e-17
C23 SE#16 VSS 5.06803e-17
C24 SE#13 VSS 9.35086e-17
C25 SE#14 VSS 9.91645e-17
C26 SE VSS 2.96969e-16
Rg17 MX84/M0#g SE#13 463.865906 $W=0.15
Rg18 SE#13 MX68/M0#g 290.345947 $W=0.15
Rg19 MX83/M0#g SE#14 400.944214 $W=0.15
Rg20 SE#14 MX80/M0#g 407.290009 $W=0.15
Rf21 SE#14 SE#16 53.566681 $W=0.17
Rf22 SE#16 SE#13 47.640217 $W=0.17
Re23 SE SE#16 152.091827 $W=0.26
*
*|NET SI 4.64469e-16
*|P (SI X 0 2.3120 2.3740)
*|I (MX72/M0#g MX72/M0 g X 0 2.1950 0.8025)
*|I (MX95/M0#g MX95/M0 g X 0 2.1950 3.2375)
*|S (SI#7 2.1950 1.9700)
*|S (SI#8 2.3000 1.9700)
C27 MX95/M0#g VSS 3.68104e-17
C28 MX72/M0#g VSS 3.59403e-17
C29 SI#8 VSS 1.0683e-16
C30 SI#7 VSS 1.0897e-16
C31 SI VSS 1.75918e-16
Rg24 MX95/M0#g SI#7 388.449097 $W=0.15
Rg25 SI#7 MX72/M0#g 356.315735 $W=0.15
Rf26 SI#8 SI#7 22.905882 $W=0.17
Re27 SI SI#8 152.194229 $W=0.26
*
*|NET 5 1.16184e-15
*|I (MX90/M0#g MX90/M0 g X 0 1.3350 0.8025)
*|I (MX68/M0#d MX68/M0 d X 0 0.3995 0.8025)
*|I (MX84/M0#d MX84/M0 d X 0 0.3995 3.2375)
*|I (MM1#g MM1 g X 0 1.7650 3.2375)
*|S (5 1.7650 3.2375)
*|S (5#7 1.3350 1.2900)
*|S (5#8 1.7650 2.6500)
*|S (5#10 0.2600 3.0900)
*|S (5#11 0.2600 0.8500)
*|S (5#14 0.2600 1.2900)
*|S (5#16 0.2600 2.6500)
C32 MX68/M0#d VSS 4.82916e-17
C33 MX90/M0#g VSS 4.46334e-17
C34 5#11 VSS 7.48964e-17
C35 5#14 VSS 2.11056e-16
C36 5#16 VSS 2.32468e-16
C37 5#10 VSS 1.39066e-16
C38 5#7 VSS 1.43714e-16
C39 5#8 VSS 2.25606e-16
C40 5 VSS 4.21065e-17
Rg28 MX90/M0#g 5#7 137.809082 $W=0.15
Rg29 5 5#8 169.942413 $W=0.15
Rf30 MX84/M0#d 5#10 25.917646 $W=0.17
Rf31 5#11 MX68/M0#d 18.764706 $W=0.17
Rf32 5#7 5#14 247.941177 $W=0.17
Rf33 5#8 5#16 280.317627 $W=0.17
Re34 5#10 5#16 152.239136 $W=0.23
Re35 5#16 5#14 0.739130 $W=0.23
Re36 5#14 5#11 152.239136 $W=0.23
Rmw37 MM1#g 5 0.001000 $W=1000000
*
*|NET 12 2.07172e-15
*|I (MX88/M0#g MX88/M0 g X 0 6.2450 0.8025)
*|I (MX78/M0#g MX78/M0 g X 0 4.0050 0.8025)
*|I (MX75/M0#d MX75/M0 d X 0 4.9405 0.8025)
*|I (MX92/M0#d MX92/M0 d X 0 4.9405 3.2375)
*|I (MX82/M0#g MX82/M0 g X 0 6.6750 3.2375)
*|I (MX70/M0#g MX70/M0 g X 0 3.5750 3.2375)
*|S (12 3.5750 3.2375)
*|S (12#13 3.5750 2.6500)
*|S (12#14 4.0050 1.2900)
*|S (12#15 6.2450 1.2900)
*|S (12#16 6.6750 2.6500)
*|S (12#18 5.0800 3.0900)
*|S (12#19 5.0800 0.8500)
*|S (12#21 5.0800 2.6500)
*|S (12#23 6.8900 2.6500)
*|S (12#25 6.8900 1.2900)
*|S (12#27 5.0800 1.2900)
*|S (12#31 5.0800 1.2900)
C41 MX82/M0#g VSS 4.98113e-17
C42 MX75/M0#d VSS 5.58859e-17
C43 MX78/M0#g VSS 4.43343e-17
C44 MX88/M0#g VSS 4.54943e-17
C45 12#19 VSS 6.63728e-17
C46 12#27 VSS 1.90552e-16
C47 12#21 VSS 2.83739e-16
C48 12#18 VSS 1.86273e-16
C49 12#25 VSS 2.80483e-16
C50 12#23 VSS 2.57522e-16
C51 12#13 VSS 1.93075e-16
C52 12#14 VSS 1.3601e-16
C53 12#15 VSS 1.566e-16
C54 12#16 VSS 6.80201e-17
C55 12 VSS 5.75526e-17
Rg38 12 12#13 169.942413 $W=0.15
Rg39 MX78/M0#g 12#14 137.809082 $W=0.15
Rg40 MX88/M0#g 12#15 152.809082 $W=0.15
Rg41 MX82/M0#g 12#16 169.942413 $W=0.15
Rf42 MX92/M0#d 12#18 25.917646 $W=0.17
Rf43 12#19 MX75/M0#d 18.764706 $W=0.17
Rf44 12#21 12#13 280.317627 $W=0.17
Rf45 12#23 12#16 31.188236 $W=0.17
Rf46 12#25 12#15 48.564705 $W=0.17
Rf47 12#15 12#27 87.717644 $W=0.17
Rf48 12#27 12#14 95.941177 $W=0.17
Re49 12#18 12#21 152.239136 $W=0.23
Re50 12#21 12#31 0.739130 $W=0.23
Re51 12#31 12#19 152.239136 $W=0.23
Re52 12#23 12#25 304.739136 $W=0.23
Re53 12#27 12#31 152.000000 $W=0.0289
Rmw54 MX70/M0#g 12 0.001000 $W=1000000
*
*|NET 15 1.2947e-15
*|I (MX97/M0#d MX97/M0 d X 0 5.8905 0.8025)
*|I (MX88/M0#d MX88/M0 d X 0 6.1695 0.8025)
*|I (MX73/M0#g MX73/M0 g X 0 4.4350 0.8025)
*|I (MX99/M0#d MX99/M0 d X 0 5.8905 3.2375)
*|I (MX96/M0#g MX96/M0 g X 0 4.4350 3.2375)
*|I (MM2#s MM2 s X 0 6.1695 3.2375)
*|S (15 4.4350 3.2375)
*|S (15#7 4.4350 2.3100)
*|S (15#9 6.0300 3.0900)
*|S (15#10 6.0300 0.8500)
*|S (15#12 6.0300 2.3100)
C56 MX73/M0#g VSS 5.31349e-17
C57 MX97/M0#d VSS 8.89487e-17
C58 15#10 VSS 1.94747e-16
C59 15#12 VSS 4.10345e-16
C60 15#9 VSS 2.65619e-16
C61 15#7 VSS 2.37169e-16
C62 15 VSS 4.47372e-17
Rg55 15 15#7 279.195740 $W=0.15
Rg56 15#7 MX73/M0#g 465.569092 $W=0.15
Rf57 MX99/M0#d 15#9 25.917646 $W=0.17
Rf58 15#10 MX97/M0#d 18.764706 $W=0.17
Rf59 15#12 15#7 287.094116 $W=0.17
Re60 15#9 15#12 152.423920 $W=0.23
Re61 15#12 15#10 152.793472 $W=0.23
Rmw62 MX88/M0#d MX97/M0#d 0.001000 $W=1000000
Rmw63 MX96/M0#g 15 0.001000 $W=1000000
Rmw64 MM2#s MX99/M0#d 0.001000 $W=1000000
*
*|NET 17 1.60808e-15
*|I (MX87/M0#g MX87/M0 g X 0 3.5750 0.8025)
*|I (MX79/M0#g MX79/M0 g X 0 6.6750 0.8025)
*|I (MX75/M0#g MX75/M0 g X 0 4.8650 0.8025)
*|I (MX74/M0#d MX74/M0 d X 0 2.7005 0.8025)
*|I (MX92/M0#g MX92/M0 g X 0 4.8650 3.2375)
*|I (MX91/M0#d MX91/M0 d X 0 2.7005 3.2375)
*|I (MX81/M0#g MX81/M0 g X 0 4.0050 3.2375)
*|I (MM2#g MM2 g X 0 6.2450 3.2375)
*|S (17 6.2450 3.2375)
*|S (17#19 3.7900 1.9700)
*|S (17#20 4.9250 1.9700)
*|S (17#21 6.4600 1.9700)
*|S (17#23 2.8400 3.0900)
*|S (17#24 2.8400 0.8500)
*|S (17#27 4.9250 1.9700)
*|S (17#28 3.7900 1.9700)
*|S (17#29 2.8400 1.9700)
C63 MX81/M0#g VSS 5.10331e-17
C64 MX92/M0#g VSS 5.03055e-17
C65 MX74/M0#d VSS 7.07774e-17
C66 MX75/M0#g VSS 4.95014e-17
C67 MX79/M0#g VSS 5.37012e-17
C68 MX87/M0#g VSS 4.17983e-17
C69 17#24 VSS 1.53741e-16
C70 17#29 VSS 2.76391e-16
C71 17#23 VSS 2.58359e-16
C72 17#19 VSS 1.46747e-16
C73 17#20 VSS 2.16658e-16
C74 17#21 VSS 1.91957e-16
C75 17 VSS 4.71147e-17
Rg65 MX81/M0#g 17#19 418.796082 $W=0.15
Rg66 17#19 MX87/M0#g 386.662750 $W=0.15
Rg67 MX92/M0#g 17#20 393.172607 $W=0.15
Rg68 17#20 MX75/M0#g 361.039276 $W=0.15
Rg69 MX79/M0#g 17#21 386.662750 $W=0.15
Rg70 17#21 17 418.796082 $W=0.15
Rf71 MX91/M0#d 17#23 25.917646 $W=0.17
Rf72 17#24 MX74/M0#d 18.764706 $W=0.17
Rf73 17#21 17#27 130.576462 $W=0.17
Rf74 17#27 17#28 85.458824 $W=0.17
Rf75 17#28 17#29 223.529419 $W=0.17
Rf76 17#20 17#27 15.000000 $W=0.0289
Rf77 17#19 17#28 15.000000 $W=0.0289
Re78 17#23 17#29 152.608688 $W=0.23
Re79 17#29 17#24 152.608688 $W=0.23
Rmw80 MM2#g 17 0.001000 $W=1000000
*
*|NET 19 1.5967e-15
*|I (MX97/M0#g MX97/M0 g X 0 5.8150 0.8025)
*|I (MX87/M0#s MX87/M0 s X 0 3.6505 0.8025)
*|I (MX78/M0#d MX78/M0 d X 0 3.9295 0.8025)
*|I (MX99/M0#g MX99/M0 g X 0 5.8150 3.2375)
*|I (MX81/M0#d MX81/M0 d X 0 3.9295 3.2375)
*|I (MX70/M0#d MX70/M0 d X 0 3.6505 3.2375)
*|S (19 5.8150 2.6500)
*|S (19#9 3.7900 3.0900)
*|S (19#10 3.7900 0.8500)
*|S (19#13 5.6000 2.6500)
C76 MX99/M0#g VSS 5.4996e-17
C77 MX87/M0#s VSS 8.24891e-17
C78 MX97/M0#g VSS 5.1598e-17
C79 19#10 VSS 2.63186e-16
C80 19#9 VSS 6.01161e-16
C81 19#13 VSS 4.75472e-16
C82 19 VSS 6.77929e-17
Rg81 MX99/M0#g 19 169.942413 $W=0.15
Rg82 19 MX97/M0#g 574.822449 $W=0.15
Rf83 MX81/M0#d 19#9 177.917648 $W=0.17
Rf84 19#10 MX87/M0#s 18.764706 $W=0.17
Rf85 19 19#13 31.188236 $W=0.17
Re86 19#13 19#9 153.547287 $W=0.23
Re87 19#9 19#10 153.217392 $W=0.23
Rmw88 MX78/M0#d MX87/M0#s 0.001000 $W=1000000
Rmw89 MX70/M0#d MX81/M0#d 0.001000 $W=1000000
*
*|NET 23 1.48243e-15
*|I (MX94/M0#g MX94/M0 g X 0 9.4350 0.9700)
*|I (MX86/M0#g MX86/M0 g X 0 7.1050 0.8025)
*|I (MX76/M0#g MX76/M0 g X 0 8.0550 0.8025)
*|I (MX69/M0#d MX69/M0 d X 0 8.5605 0.8025)
*|I (MX100/M0#g MX100/M0 g X 0 7.1050 3.2375)
*|I (MX93/M0#g MX93/M0 g X 0 8.0550 3.2375)
*|I (MX85/M0#d MX85/M0 d X 0 8.5605 3.2375)
*|I (MX77/M0#g MX77/M0 g X 0 9.4350 2.9850)
*|S (23 9.4350 2.9850)
*|S (23#19 7.1050 1.6300)
*|S (23#20 8.0550 1.6300)
*|S (23#21 9.3450 1.6300)
*|S (23#23 8.7000 3.2050)
*|S (23#25 8.7000 1.6300)
*|S (23#26 8.0550 1.6300)
*|S (23#28 8.7000 1.0250)
C83 MX93/M0#g VSS 5.4476e-17
C84 MX100/M0#g VSS 5.56814e-17
C85 MX69/M0#d VSS 5.17684e-17
C86 MX76/M0#g VSS 4.24134e-17
C87 MX86/M0#g VSS 4.59019e-17
C88 MX94/M0#g VSS 5.04038e-17
C89 23#25 VSS 9.25876e-17
C90 23#28 VSS 2.45596e-16
C91 23#23 VSS 3.96507e-16
C92 23#19 VSS 1.0703e-16
C93 23#20 VSS 1.54491e-16
C94 23#21 VSS 1.2215e-16
C95 23 VSS 6.34224e-17
Rg90 MX100/M0#g 23#19 497.702423 $W=0.15
Rg91 23#19 MX86/M0#g 247.062408 $W=0.15
Rg92 MX93/M0#g 23#20 497.702423 $W=0.15
Rg93 23#20 MX76/M0#g 247.062408 $W=0.15
Rg94 23 23#21 411.744843 $W=0.15
Rg95 23#21 MX94/M0#g 188.418182 $W=0.15
Rf96 MX85/M0#d 23#23 17.258823 $W=0.17
Rf97 23#21 23#25 63.074757 $W=0.17
Rf98 23#25 23#26 48.074757 $W=0.17
Rf99 23#26 23#19 86.529411 $W=0.17
Rf100 23#25 23#28 40.316555 $W=0.17
Rf101 23#28 MX69/M0#d 31.941177 $W=0.17
Rf102 23#20 23#26 15.000000 $W=0.0289
Re103 23#23 23#28 229.184784 $W=0.23
Rmw104 MX77/M0#g 23 0.001000 $W=1000000
*
*|NET 26 1.39539e-15
*|I (MX88/M0#s MX88/M0 s X 0 6.3205 0.8025)
*|I (MX79/M0#d MX79/M0 d X 0 6.5995 0.8025)
*|I (MX69/M0#g MX69/M0 g X 0 8.4850 0.8025)
*|I (MX85/M0#g MX85/M0 g X 0 8.4850 3.2375)
*|I (MX82/M0#d MX82/M0 d X 0 6.5995 3.2375)
*|I (MM2#d MM2 d X 0 6.3205 3.2375)
*|S (26 8.5750 2.4800)
*|S (26#9 6.4600 3.0900)
*|S (26#10 6.4600 0.8500)
*|S (26#13 6.4600 2.3100)
C96 MX82/M0#d VSS 1.09438e-20
C97 MX85/M0#g VSS 4.97832e-17
C98 MX69/M0#g VSS 4.72584e-17
C99 MX88/M0#s VSS 8.89261e-17
C100 26#10 VSS 2.21288e-16
C101 26#13 VSS 4.7799e-16
C102 26#9 VSS 2.38099e-16
C103 26 VSS 2.72037e-16
Rg105 MX85/M0#g 26 219.748169 $W=0.15
Rg106 26 MX69/M0#g 515.374878 $W=0.15
Rf107 MX82/M0#d 26#9 25.917646 $W=0.17
Rf108 26#10 MX88/M0#s 18.764706 $W=0.17
Rf109 26 26#13 333.398804 $W=0.17
Re110 26#9 26#13 152.423920 $W=0.23
Re111 26#13 26#10 152.793472 $W=0.23
Rmw112 MX79/M0#d MX88/M0#s 0.001000 $W=1000000
Rmw113 MM2#d MX82/M0#d 0.001000 $W=1000000
*
*|NET 29 1.25014e-15
*|I (MX98/M0#g MX98/M0 g X 0 9.8650 0.9700)
*|I (MX76/M0#d MX76/M0 d X 0 7.9795 0.8025)
*|I (MX93/M0#d MX93/M0 d X 0 7.9795 3.2375)
*|I (MX71/M0#g MX71/M0 g X 0 9.8650 2.9850)
*|S (29 9.8650 2.9850)
*|S (29#7 9.9550 1.7750)
*|S (29#9 7.8400 3.0250)
*|S (29#10 7.8400 1.0050)
*|S (29#13 7.8400 1.9700)
C104 MX76/M0#d VSS 1.11386e-16
C105 MX98/M0#g VSS 4.62588e-17
C106 29#10 VSS 1.36548e-16
C107 29#13 VSS 3.71721e-16
C108 29#9 VSS 2.73115e-16
C109 29#7 VSS 2.51679e-16
C110 29 VSS 5.9427e-17
Rg114 29 29#7 365.151520 $W=0.15
Rg115 29#7 MX98/M0#g 235.011505 $W=0.15
Rf116 MX93/M0#d 29#9 30.811764 $W=0.17
Rf117 29#10 MX76/M0#d 30.435293 $W=0.17
Rf118 29#7 29#13 335.281128 $W=0.17
Re119 29#9 29#13 76.573372 $W=0.23
Re120 29#13 29#10 76.524460 $W=0.23
Rmw121 MX71/M0#g 29 0.001000 $W=1000000
*
*|NET 33 1.84521e-15
*|I (MX90/M0#d MX90/M0 d X 0 1.4105 0.8025)
*|I (MX87/M0#d MX87/M0 d X 0 3.4995 0.8025)
*|I (MX83/M0#d MX83/M0 d X 0 1.6895 0.8025)
*|I (MX80/M0#d MX80/M0 d X 0 1.4105 3.2375)
*|I (MX70/M0#s MX70/M0 s X 0 3.4995 3.2375)
*|I (MM1#s MM1 s X 0 1.6895 3.2375)
*|S (33#2 1.5500 3.0900)
*|S (33#3 1.5500 0.8500)
*|S (33 3.3600 3.0900)
*|S (33#7 3.3600 0.8500)
C111 MX87/M0#d VSS 6.49944e-17
C112 MX90/M0#d VSS 8.24302e-17
C113 33#3 VSS 2.42235e-16
C114 33#2 VSS 5.45141e-16
C115 33#7 VSS 2.93399e-16
C116 33 VSS 6.17008e-16
Rf122 MX80/M0#d 33#2 177.917648 $W=0.17
Rf123 33#3 MX90/M0#d 18.764706 $W=0.17
Rf124 MX70/M0#s 33 177.917648 $W=0.17
Rf125 33#7 MX87/M0#d 18.764706 $W=0.17
Re126 33 33#2 1.308160 $W=0.23
Re127 33#2 33#3 153.217392 $W=0.23
Re128 33 33#7 153.217392 $W=0.23
Rmw129 MX83/M0#d MX90/M0#d 0.001000 $W=1000000
Rmw130 MM1#s MX80/M0#d 0.001000 $W=1000000
*
*|NET 34 1.15182e-16
*|I (MX90/M0#s MX90/M0 s X 0 1.2595 0.8025)
*|I (MX89/M0#d MX89/M0 d X 0 0.9805 0.8025)
*|S (34 1.1200 0.8000)
C117 34 VSS 1.15182e-16
Rmw131 MX90/M0#s 34 0.001000 $W=1000000
Rmw132 MX89/M0#d 34 0.001000 $W=1000000
*
*|NET 36 1.47667e-16
*|I (MX80/M0#s MX80/M0 s X 0 1.2595 3.2375)
*|I (MM0#d MM0 d X 0 0.9805 3.2375)
*|S (36 1.1200 3.2350)
C118 36 VSS 1.47667e-16
Rmw133 MX80/M0#s 36 0.001000 $W=1000000
Rmw134 MM0#d 36 0.001000 $W=1000000
*
*|NET 38 8.8704e-17
*|I (MX83/M0#s MX83/M0 s X 0 1.8405 0.8025)
*|I (MX72/M0#d MX72/M0 d X 0 2.1195 0.8025)
*|S (38 1.9800 0.8000)
C119 38 VSS 8.8704e-17
Rmw135 MX83/M0#s 38 0.001000 $W=1000000
Rmw136 MX72/M0#d 38 0.001000 $W=1000000
*
*|NET 40 1.42723e-16
*|I (MX95/M0#d MX95/M0 d X 0 2.1195 3.2375)
*|I (MM1#d MM1 d X 0 1.8405 3.2375)
*|S (40 1.9800 3.2350)
C120 40 VSS 1.42723e-16
Rmw137 MX95/M0#d 40 0.001000 $W=1000000
Rmw138 MM1#d 40 0.001000 $W=1000000
*
*|NET 42 1.03612e-16
*|I (MX78/M0#s MX78/M0 s X 0 4.0805 0.8025)
*|I (MX73/M0#d MX73/M0 d X 0 4.3595 0.8025)
*|S (42 4.2200 0.8000)
C121 42 VSS 1.03612e-16
Rmw139 MX78/M0#s 42 0.001000 $W=1000000
Rmw140 MX73/M0#d 42 0.001000 $W=1000000
*
*|NET 44 1.38876e-16
*|I (MX96/M0#d MX96/M0 d X 0 4.3595 3.2375)
*|I (MX81/M0#s MX81/M0 s X 0 4.0805 3.2375)
*|S (44 4.2200 3.2350)
C122 44 VSS 1.38876e-16
Rmw141 MX96/M0#d 44 0.001000 $W=1000000
Rmw142 MX81/M0#s 44 0.001000 $W=1000000
*
*|NET 46 1.06503e-16
*|I (MX86/M0#d MX86/M0 d X 0 7.0295 0.8025)
*|I (MX79/M0#s MX79/M0 s X 0 6.7505 0.8025)
*|S (46 6.8900 0.8000)
C123 46 VSS 1.06503e-16
Rmw143 MX86/M0#d 46 0.001000 $W=1000000
Rmw144 MX79/M0#s 46 0.001000 $W=1000000
*
*|NET 48 1.37073e-16
*|I (MX100/M0#d MX100/M0 d X 0 7.0295 3.2375)
*|I (MX82/M0#s MX82/M0 s X 0 6.7505 3.2375)
*|S (48 6.8900 3.2350)
C124 48 VSS 1.37073e-16
Rmw145 MX100/M0#d 48 0.001000 $W=1000000
Rmw146 MX82/M0#s 48 0.001000 $W=1000000
*
*Instance Section
*
MX98/M0	MX98/M0#d	MX98/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX97/M0	MX97/M0#d	MX97/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX94/M0	MX94/M0#d	MX94/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX90/M0	MX90/M0#d	MX90/M0#g	MX90/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX89/M0	MX89/M0#d	MX89/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX88/M0	MX88/M0#d	MX88/M0#g	MX88/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX87/M0	MX87/M0#d	MX87/M0#g	MX87/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX86/M0	MX86/M0#d	MX86/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX83/M0	MX83/M0#d	MX83/M0#g	MX83/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX79/M0	MX79/M0#d	MX79/M0#g	MX79/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX78/M0	MX78/M0#d	MX78/M0#g	MX78/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX76/M0	MX76/M0#d	MX76/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX75/M0	MX75/M0#d	MX75/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX74/M0	MX74/M0#d	MX74/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX73/M0	MX73/M0#d	MX73/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX72/M0	MX72/M0#d	MX72/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX69/M0	MX69/M0#d	MX69/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX68/M0	MX68/M0#d	MX68/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX100/M0	MX100/M0#d	MX100/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX99/M0	MX99/M0#d	MX99/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX96/M0	MX96/M0#d	MX96/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX95/M0	MX95/M0#d	MX95/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX93/M0	MX93/M0#d	MX93/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX92/M0	MX92/M0#d	MX92/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX91/M0	MX91/M0#d	MX91/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX85/M0	MX85/M0#d	MX85/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX84/M0	MX84/M0#d	MX84/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX82/M0	MX82/M0#d	MX82/M0#g	MX82/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX81/M0	MX81/M0#d	MX81/M0#g	MX81/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX80/M0	MX80/M0#d	MX80/M0#g	MX80/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX77/M0	MX77/M0#d	MX77/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX71/M0	MX71/M0#d	MX71/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX70/M0	MX70/M0#d	MX70/M0#g	MX70/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MM0	MM0#d	MM0#g	VDD	VDD	pfet_01v8	L=1.5e-07
+ W=6.25e-07
MM1	MM1#d	MM1#g	MM1#s	VDD	pfet_01v8	L=1.5e-07
+ W=6.25e-07
MM2	MM2#d	MM2#g	MM2#s	VDD	pfet_01v8	L=1.5e-07
+ W=6.25e-07
.ENDS
